data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2605,"O=S(=O)(O)[C:1]1([H:2])C=CC=C[C+:3]1CBr.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2298,"CC1=CC=C(S(=O)(=O)N2CC(C)C3CCC(Br)[C:1](=[O:2])C32)C=C1.C[OH+][K].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8598,"COC(=O)[CH:1](C1=CC=CC=C1)[N+:2]#N.O=S(=O)(C1=CC=CC=C1)[N-:3]S(=O)(=O)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1255,"CC[SiH:1](CC)CC.C[O:2][B-](F)(F)F|(2, 1)"
train,pmechdb_split_0,0,4087,"C[C:1](C)=[O:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3691,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(C3CCCCC3)CC(CC(C)C)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,198,"CC(=O)[O:1][H:2].O=[N+]([O-])[OH:3].OC1=CC(O)=C2C=CC=CC2=N1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1551,"C[O-:1].C[S+:2](C)[CH2:3][CH2:4][H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,3872,"C=[C:1](C)[Mg:2][Br].CC=[N+:3](C)[H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6827,"OC(CCl)=[O:1].[OH][Mg:2][OH]|(1, 2)"
train,pmechdb_split_0,0,8261,"O=C1C2=CC=CC3=CC=CC(=C32)C(=O)N1CC[CH2:1][O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1CCC(=O)N1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,1769,"CCC(CC)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4920,"C[P:1](C)C.C[S:2][S:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9082,"COC(=O)C12CC(=O)C[CH:1]=[C:2]1[N:3](CCC1=CC(OC)=C(OC)C=C1)C(=O)C2.O=P(O)(O)OP(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1118,"Br[C:1]1([H:2])C2=C(C=CC=C2)C=C[C+:3]1Br.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,10,"CC1([O-:1])CCCC(=O)C1.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5077,"CC[NH2+:1][C:2](CC#N)(NC)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6610,"O=CCCC(=O)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4569,"C[Si](C)(C)C[C:1]#[CH:2].C[Si](C)(C)[O+:3](C)[Cl:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,2978,"CC1(CC[C:1](=[CH2:2])[N:3]2CCCC2C(=O)[O-])C(=O)CC[C:4]1=[O:5].O.O=C([O-])C1CCC[NH2+]1.[OH3+]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3294,"C[CH:1]=[Cl+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4208,"C#CC[O+:1]([Si-](C)(C)(C)Cl)[H:2].CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9113,"CC(=O)CC[C:1](C(C)C)([C:2]1=[N+](CC2=CC=CC=C2)C(C)=C(CCO)S1)[O-:3].CC[NH+](CC)CC.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8972,"C#CC(C1=CC=C(OCCCCC2=CN(C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=N2)C=C1)[OH+:1][Mg-:2]([OH])[Br]|((2, 1), 1)"
train,pmechdb_split_0,0,5460,"CC1(C)CCC[CH+:1][C:2]1(C)[CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,3095,"CC[O+:1](S(C)(C)Cl)[H:2].C[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8805,"Cl[S:1](Cl)=[O:2].OCCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,133,"CC(=O)OC1=C2OC3C(=O)CCC4(OC(C)=O)C5CC(=C2C34CC[N+:1]5(C#N)[CH3:2])C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1995,"O[CH:1]([OH2+:2])[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6093,"CCO[C:1](C)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8435,"CCCCCC1=CC(=[O+:1][H:2])C(=CC=C(C)CCC=C(C)C)C(O)=C1.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4147,"C1=CC=C(CN2CCCC(=[C+:1]CCCC3=CC(C4CCCC4)=CC=C3)C2)C=C1.CO.O.[N-]=[N+]=[N-:2].[Na+]|(2, 1)"
train,pmechdb_split_0,0,194,"CC(C)(SC1=CC=CC=C1)C1(C)C(Cl)=C[P:1]2(=[O+:2]1)OC[CH:3](C)[O:4]2.[Cl-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7677,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=C(C[O:2][H:3])C=C2C=CC=CC2=N1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7753,"C[CH:1]([O-:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5258,"CC[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2068,"CC=C(C)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8801,"CO.COC1=CC(OC)=C(OC)C2=C1[C:1]([O-:2])=[C:3](C)[C:4](CCC(C)C(C)OC)([OH:5])O2|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7883,"CCCCC(C1=C(O)C=CC(Br)=C1)([NH+]1CCCC1C1=NN=NN1)[O-:1].O=C(C(F)(F)F)[O:2][H:3].O=CC1=CC=C([N+](=O)[O-])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1253,"CCOC(CC)[N:1](C)C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7795,"C1CC1C[N:1]=[N:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8709,"CN[C:1](C)([O-:2])[O:3]C(=O)CCC=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2786,"C1CC[NH+:1]([H:2])C1.C=C1CCCC2CC(N3CCCC3)([OH:3])CCC12|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8779,"CC1=CC=C(S(=O)(=O)OC(C)CC[OH:1])C=C1.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,8202,"O=C1C[NH:1]C(O)(C2=NC=CC=C2)C2=C(C=CC=C2)N1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7534,"C[CH2:1][O:2][P+:3](C)(C)C.[I-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,7558,"COP(=O)(OC)[CH2:1][H:2].[Li:3][CH3:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,10379,"CC[N:1](CC)CC.COC1=C(NC(=O)C[NH+:2]=[CH:3][CH:4](C(C)(C)C)[H:5])C=CC(OCCOC(C)=O)=C1.O.O=C([O-])C(F)(F)F|(1, 5);((5, 4), 3);((3, 2), 2)"
